US08476197B2
To a solution of ethyl 3-chloro-3-(2-chloropyridin-3-yl)-2-cyanoacrylate (0.1 g, 0.369 mmol, 1 eq.) in 5 ml of tetrahydrofuran were added 2-[3-chloro-5-(trifluoromethyl)pyridin-2-yl]ethanamine hydrochloride (0.106 g, 0.40 mmol, 1.1 eq.) and triethylamine (TEA) (0.112 g, 1.10 mmol, 3 eq.) at room temperature. After being stirred for 8 h at 80° C., the mixture was evaporated. The residue was diluted with AcOEt and the precipitate was filtered off. The filtrate was evaporated and the residual oil was subjected to column chromatography to give ethyl (2Z)-3-(2-chloropyridin-3-yl)-3-({2-[3-chloro-5-(trifluoromethyl)pyridin-2-yl]ethyl}amino)-2-cyanoacrylate (0.170 g, 99% yield).

reactant | ethyl 3-chloro-3-(2-chloropyridin-3-yl)-2-cyanoacrylate | 0.369 mmol, 0.1 g, 1 eq. | ClC(=C(C(=O)OCC)C#N)C=1C(=NC=CC1)Cl | C11H8Cl2N2O2
reactant | 2-[3-chloro-5-(trifluoromethyl)pyridin-2-yl]ethanamine hydrochloride | 0.40 mmol, 0.106 g, 1.1 eq. | Cl.ClC=1C(=NC=C(C1)C(F)(F)F)CCN
reactant | triethylamine | 1.10 mmol, 0.112 g, 3 eq. | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | ethyl (2Z)-3-(2-chloropyridin-3-yl)-3-({2-[3-chloro-5-(trifluoromethyl)pyridin-2-yl]ethyl}amino)-2-cyanoacrylate | 0.170 g, 99% yield | ClC1=NC=CC=C1/C(=C(/C(=O)OCC)\C#N)/NCCC1=NC=C(C=C1Cl)C(F)(F)F | C19H15Cl2F3N4O2
